US04360680
3-Amino-1-m-tolyl-2-pyrazoline
A 2.8 g. amount of sodium metal is dissolved in 100 ml. of absolute ethanol, then 15.8 g. of m-tolylhydrazine hydrochloride is added followed in 5 minutes by 9.9 g. of β-ethoxypropionitrile. The reaction mixture is refluxed for 16 hours, then is evaporated to dryness in vacuo. Water is added and the precipitate is collected by filtration. The solid is dissolved in dichloromethane and is passed through a short column of a hydrous magnesium silicate. The column effluent is refluxed on a steam bath with the gradual addition of hexane to crystallize a product. The mixture is cooled and filtered to give 10.1 g. of the product of the Example as colorless crystals, m.p. 119°-120° C.

reactant | sodium | [Na] | Na
reactant | m-tolylhydrazine hydrochloride | Cl.C1(=CC(=CC=C1)NN)C
reactant | β-ethoxypropionitrile | C(C)OCCC#N | C5H9NO
solvent | ethanol | C(C)O | C2H6O
product | 3-Amino-1-m-tolyl-2-pyrazoline | NC1=NN(CC1)C=1C=C(C=CC1)C | C10H13N3
